US09301951B2
N1-(4-(butyl(methyl)amino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide
Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(butyl(methyl)amino)phenyl)isonicotinamide (250 mg, 0.55 mmol, 1.00 equiv) in dichloromethane (10 mL), 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid (190 mg, 0.65 mmol, 1.19 equiv), 4-dimethylaminopyridine (133 mg, 1.09 mmol, 1.99 equiv), EDC.HCl (210 mg, 1.09 mmol, 2.00 equiv). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The resulting solution was diluted with 100 mL of dichloromethane. The resulting mixture was washed with 2×50 mL of NH4Cl aq. and 2×50 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The crude product was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and CH3CN (30% CH3CN up to 42% in 6 min); Detector, UV 220&254 nm. This resulted in 87.2 mg (15%) of N1-(4-(butyl(methyl)amino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide as a yellow solid. LC-MS (ES, m/z): 731 [M+H]+ H-NMR (300 MHz, DMSO, ppm): 11.95 (s, 1H), 9.75 (s, 1H), 9.52 (s, 1H), 8.88 (d, J=5.1 Hz, 1H), 8.27 (s, 1H), 8.10 (d, J=9.3 Hz, 1H), 7.97-7.83 (m, 2H), 7.82 (d, J=5.1 Hz, 1H), 7.70-7.54 (m, 6H), 7.17 (s, 1H), 6.95 (d, J=7.5 Hz, 1H), 4.61 (d, J=5.7 Hz, 2H), 4.02 (s, 2H), 3.90 (s, 2H), 3.65 (s, 4H), 3.45-3.39 (m, 4H), 3.20 (s, 2H), 3.0 (d, J=12.3 Hz, 6H), 1.55-1.50 (m, 2H), 1.35-1.30 (m, 2H), 0.93-0.88 (m, 3H).

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(butyl(methyl)amino)phenyl)isonicotinamide | 0.55 mmol, 250 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(C)CCCC)N)=O)C=CC1)(F)F | C25H27F3N4O
reactant | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid | 0.65 mmol, 190 mg, 1.19 equiv | CN(C(=O)C=1C=C(C(=O)O)C=CC1)CCN1CCOCC1 | C15H20N2O4
reactant | EDC.HCl | 1.09 mmol, 210 mg, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.09 mmol, 133 mg, 1.99 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N1-(4-(butyl(methyl)amino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide | C(CCC)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CCN2CCOCC2)C)=CC=C1)=O)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)C | C40H45F3N6O4
